US05948817
A magnetically stirred solution of 2,3-dihydro-5-phenyl-4-benzofurancarboxylic acid (0.730 g, 3.04 mmol) in thionyl chloride (250 mL) was heated at reflux for 3 h. The solvent was removed by concentration in vacuo. The residue was digested with CH2Cl2 (150 mL) and the solution concentrated in vacuo. This process was repeated twice. The residue was digested with CH2Cl2 (260 mL) and treated with anhydrous aluminum chloride (0.40 g, 3.00 mmol). The resultant suspension was stirred for 2 h, poured over ice (250 g), treated with 1 N HCl (250 mL) and CH2Cl2 (250 mL), the layers were separated, and the aqueous layer further extracted with fresh CH2Cl2 (3×200 mL). The combined organic extracts were washed with brine (500 mL), dried (K2CO3), filtered, and concentrated in vacuo to give 0.525 g of 2,10-dihydro-1H-fluoreno[2,1-b]furan-10-one: 1H NMR (300 MHz, CDCl3) δ 3.44 (t, J=8.5 Hz, 2H), 4.65 (t, J=8.5 Hz, 2H), 6.78 (d, J=8 Hz, 1H), 7.18 (dt, J=1.5, 8 Hz, 1H), 7.25 (d, J=8 Hz, 1H), 7.39 (d, J=8 Hz, 1H), 7.41 (dt, J=2, 8 Hz, 1H), 7.57(d, J=8 Hz, 1H).

reactant | 2,3-dihydro-5-phenyl-4-benzofurancarboxylic acid | 3.04 mmol, 0.730 g | C1(=CC=CC=C1)C1=CC=C2C(CCO2)=C1C(=O)O | C15H12O3
reactant | aluminum chloride | 3.00 mmol, 0.40 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | HCl | 1 N, 250 mL | Cl | ClH
reactant | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
solvent | thionyl chloride | 250 mL | S(=O)(Cl)Cl | Cl2OS
product | 2,10-dihydro-1H-fluoreno[2,1-b]furan-10-one | 0.525 g | C1C2=C(OC1)C=CC=1C3=CC=CC=C3C(C12)=O | C15H10O2
